US05563163
A solution of lithium diisopropylamide (6.4 g, 0.06 mol) in THF (100 ml) under nitrogen was cooled to -70° C. and a solution of 3, 5-dichloro-2-[2-(4-morpholinyl) ethoxy]pyridine (13.0 g, 0.047 mol) in THF (10 ml) was added via syringe. The yellow/red solution was stirred for 30 minutes at -70° C. and then was slowly warmed to room temperature. The mixture was poured onto crushed dry ice/THF and upon evaporation of the dry ice the solvent was removed in vacuo. The residue was taken up in dilute ammonium hydroxide and extracted with chloroform (2X). The organic layer was separated and concentrated in vacuo to afford 6.0 g of recovered starting material. The aqueous layer was concentrated in vacuo and 3N HCl was added to the residue. The 15 solution was cooled and a solid was obtained which was collected by filtration. The solid was recrystallized from water to afford 3,5-dichloro-2-[2-(4-morpholinyl)ethoxy]pyridine-4-carboxylic acid hydrochloride as a white solid in 71% yield (based on recovered starting material), m.p. 230°-231° C. (dec.).

reactant | lithium diisopropylamide | 0.06 mol, 6.4 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3, 5-dichloro-2-[2-(4-morpholinyl) ethoxy]pyridine | 0.047 mol, 13.0 g | ClC=1C(=NC=C(C1)Cl)OCCN1CCOCC1 | C11H14Cl2N2O2
reactant | dry ice THF | C(=O)=O.C1CCOC1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3,5-dichloro-2-[2-(4-morpholinyl)ethoxy]pyridine-4-carboxylic acid hydrochloride | 71% yield | Cl.ClC=1C(=NC=C(C1C(=O)O)Cl)OCCN1CCOCC1 | InChI=1S/C12H14Cl2N2O4.ClH/c13-8-7-15-11(10(14)9(8)12(17)18)20-6-3-16-1-4-19-5-2-16;/h7H,1-6H2,(H,17,18);1H
